US04091108
A mixture of 2-chloro-6-cyanothioxanthene (1.38g.), sodium azide (0.71g.), ammonium chloride (0.59g.) and dimethylformamide (20 ml.) was heated at 130° C. for 7 hr. The mixture was cooled, poured into cold dilute hydrochloric acid, and the precipitated product filtered off. Recrystallisation from acetic acid yielded 7-chloro-3(5-tetrazolyl)thioxanthene, which was dired at 154° C./20mm Hg., m.pt. 257° C. with decomposition.

reactant | 2-chloro-6-cyanothioxanthene | 1.38g | ClC1=CC=2CC3=CC=C(C=C3SC2C=C1)C#N | C14H8ClNS
reactant | sodium azide | 0.71g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.59g | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 7-chloro-3(5-tetrazolyl)thioxanthene | ClC1=CC=C2SC=3C=C(C=CC3CC2=C1)C1=NN=NN1 | C14H9ClN4S
